US07781476B2
1-(2-Bromobenzenesulfonyl)-1H-indole-3-carboxaldehyde (D28)
A stirred solution of 1H-indole-3-carboxaldehyde (1 g, 6.89 mmol), in DMF (25 mL) was treated with sodium hydride (0.357 g, 60% in mineral oil, 8.95 mmol) under nitrogen at room temperature, stirred for 30 minutes, treated with 2-Bromobenzene sulfonyl chloride (1.8 mL, 8.25 mmol), stirred at room temperature for 3-5 hrs. After the completion of reaction (T. L. C.), the reaction mixture was quenched with 25 mL ice-cold water and diluted with 25 mL ethyl acetate. The organic phase was separated, washed sequentially with water and brine, dried over anhydrous MgSO4 and concentrated in vacuo. The resultant residue was purified by flash chromatography (silica gel, EtOAc/Hexane, 2/8) to afford the title compound as an off-white foam, which was latter identified by IR, NMR and mass spectral data.

reactant | 1H-indole-3-carboxaldehyde | 6.89 mmol, 1 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | sodium hydride | 8.95 mmol, 0.357 g | [H-].[Na+]
reactant | 2-Bromobenzene sulfonyl chloride | 8.25 mmol, 1.8 mL | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 1-(2-Bromobenzenesulfonyl)-1H-indole-3-carboxaldehyde | BrC1=C(C=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C=O | C15H10BrNO3S
